2182-02-26 09:09:00 Physician Attending Progress Note
Chief Complaint: altered MS, hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt watching TV in bed, less responsive with slurred speech,
   diaphoretic. Has had increased WOB last few days, improved with nebs.
   No F/C, cough, CP, back pain. Per wife, slow to respond. No trauma.
   Seen at OSH, intubated. Received Vanco. Large habitus precluded CT
   imaging. Tox screens positive for cannabinoids. Trop 0.02.  By report
   hypotensive at OSH to 70s-80s, has never been hypotensive at [**Hospital1 19**].
   24 Hour Events:
 MULTI LUMEN - START [**2182-2-26**] 02:30 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2182-2-26**] 04:00 AM
   Midazolam (Versed) - [**2182-2-26**] 07:40 AM
   Other medications:
   Atrovent
   Albuterol
   Colace
   Protonix
   RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-26**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 64 (59 - 66) bpm
   BP: 120/63(76) {106/58(70) - 138/79(103)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             23 mL
   PO:
             TF:
   IVF:
   23 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,275 mL
   Urine:
   1,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,252 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 434 (434 - 434) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.31/63/206/33/3
   Ve: 8 L/min
   PaO2 / FiO2: 515
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric) Diminshed, clear; no
   wheezes or rhonchi
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   196 K/uL
   181 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.1 mEq/L
   24 mg/dL
   106 mEq/L
   144 mEq/L
   33.1 %
   10.4 K/uL
        [image002.jpg]
                             [**2182-2-26**]  03:19 AM
                             [**2182-2-26**]  05:56 AM
   WBC
   10.4
   Hct
   33.1
   Plt
   196
   Cr
   0.9
   TCO2
   33
   Glucose
   181
   Other labs: CK / CKMB / Troponin-T:82// trop negative, ALT / AST:99/59,
   Alk Phos / T Bili:73/0.2, Lactic Acid:1.4 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: UA: negative
   7.1/81/59 VBG
   7.31/63/206 ABG on vent
   Imaging:
   CXR: massive cardiomegaly with widened mediastinum, no focal infiltrate
   per RADS although ? at L base
   Microbiology: Pending blood, urine cx
   ECG: No STE or depressions
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   56M transferred from OSH, intubated for altered mental status
   - AMS: Unclear etiology, ? hypercarbia/OSA, with cannabinoids on board,
   also takes oxycodone at home
 Neuro consult: appreciate recs, no focal deficits, unlikely to be an
   acute CVA, further recs pending
 Unable to obtain head CT given weight limit of CT table
 however pt
   remains nonfocal on exam so acute ICH or CVA seems unlikely
 Infectious workup: so far negative, no suggestion of meningitis,
   afebrile
 Contact PCP regarding use of CPAP at home
 Switch to propofol for ease of neuro examinations
 consider EEG, will await neuro recs
   - Widened mediastinum: [**Month (only) 51**] be due to habitus, no hx trauma, absence of
   pain makes dissection unlikely.
 TEE today
 low suspicion for dissection given absence of pain
   - Respiratory failure: Appears to be hypercarbic based on PcO2 70s at
   OSH.
 Oxygenating well on vent, currently on PS settings
 LENIS to eval for DVT although low suspicion for PE
 VQ may be difficult given abnormal CXR, cannot get CTA, hold on
   heparin until aorta evaluated by echo
 Echo to eval for R heart strain
 Hold on treating for COPD exacerbation for now with steroids, no
   wheezing, continue MDIs
 Received Vanc/CTX on arrival for empiric coverage
 will do 5 d
   course of CTX/Azithro/Vanco pending cx data
 Wean vent as tolerated, consider SBT later today
 eval for auto-peep, if high then start steroids
 aline
 sputum: GPCs on gram stain
 on Vanco
   - Asthma hx: No e/o acute flare now
 nebs standing
 hold on steroids for now
   - Mild transaminitis: Unclear etiology.
 Hold statin
   - HTN
 restart home meds
   - GERD
 continue home PPI
   - DM
 RISS, goal BS<150
   ICU Care
   Nutrition: NPO
   Glycemic Control:  RISS
   Lines:  PICC today, pull CVL (OSH line)
   Multi Lumen - [**2182-2-26**] 02:30 AM
   22 Gauge - [**2182-2-26**] 02:33 AM
   Prophylaxis:
   DVT: Boots, SQH
   Stress ulcer:
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   Addendum
   TEE negative for dissection
   Weaned to PSV
   Given potentially very challenging airway, will keep intubated until
   a.m.

2182-02-27 04:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2182-2-26**] 10:15 AM
 ULTRASOUND - At [**2182-2-26**] 11:15 AM
   Bil LENs
 ARTERIAL LINE - START [**2182-2-26**] 05:00 PM
   [**2-26**]:
   - Identity confirmed, name changed from EU critical
   - Right a line placed
   - TEE: Mildly dilated ascending aorta. No thoracic aortic dissection.
   Probably preserved LV systolic function without significant valvular
   regurg
   - LENI: No DVT
   - Neuro: Normal neuro exam, can repeat more comprehensive exam after
   extubation. Consider outpatient sleep study for ?OSA
   - Sputum positive for 3+ GPC in pairs/clusters
   - ABG's with PCO2s consistently in 60's, while on PSV. Patient
   comfortable -> did not change to A/C
   - PICC order placed in AM but never came. IJ from OSH will have been in
   24 hrs @ 0300
   - ruled out by cardiac enzymes x3
   [**2-27**]:
   - Self limited 8 beat run v tach at 0345, K+ 3.9, Mg 2.3, iCa 1.2
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2182-2-26**] 10:50 AM
   Ceftriaxone - [**2182-2-26**] 01:00 PM
   Vancomycin - [**2182-2-26**] 08:00 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2182-2-26**] 07:40 AM
   Heparin Sodium (Prophylaxis) - [**2182-2-26**] 10:06 PM
   Fentanyl - [**2182-2-27**] 03:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-27**] 04:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 52 (52 - 74) bpm
   BP: 114/52(68) {100/43(59) - 160/74(100)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,316 mL
                                                                    302 mL
   PO:
             TF:
                                                                     34 mL
                                                                     71 mL
   IVF:
                                                                  1,282 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                    335 mL
   Urine:
                                                                  2,375 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,059 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 482 (434 - 492) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.35/64/90.[**Numeric Identifier 126**]/33/6
   Ve: 8.6 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   232 K/uL
   10.0 g/dL
   160 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   19 mg/dL
   103 mEq/L
   140 mEq/L
   30.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2182-2-26**]  03:19 AM
                             [**2182-2-26**]  05:56 AM
                             [**2182-2-26**]  09:03 AM
                             [**2182-2-26**]  03:11 PM
                             [**2182-2-26**]  09:16 PM
                             [**2182-2-26**]  09:20 PM
                             [**2182-2-26**]  10:58 PM
                             [**2182-2-27**]  02:22 AM
                             [**2182-2-27**]  02:30 AM
   WBC
   10.4
   8.9
   Hct
   33.1
   30.9
   Plt
   196
   232
   Cr
   0.9
   0.9
   0.8
   TropT
   <0.01
   0.01
   TCO2
   33
   34
   35
   35
   37
   Glucose
   181
   170
   160
   Other labs: PT / PTT / INR:12.6/22.2/1.1, CK / CKMB /
   Troponin-T:77//0.01, ALT / AST:99/59, Alk Phos / T Bili:73/0.2, Amylase
   / Lipase:/60, Lactic Acid:0.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.8 mg/dL
   Imaging: [**2-26**] TEE:  Suboptimal image quality. Mildly dilated ascending
   aorta. No thoracic aortic dissection. Probably preserved left
   ventricular systolic function without significant valvular
   regurgitation.
   [**2-26**] CXR: 1. Massive cardiomegaly. Small left pleural effusion. 2.
   Mediastinal widening could represent adenopathy, pulmonary arterial
   enlargement. 2. ET tube 5.8 cm above the carina. NG tube tip is not
   identified.
   [**2-26**] Lower extrem U/S: Limited exam without evidence of DVT.
   Microbiology: [**2-26**] Sputum Gram stain: >25 PMNs and <10 epithelial
   cells/100X field. 3+  (5-10 per 1000X FIELD): GPC IN PAIRS AND
   CLUSTERS.
   [**2-26**] BCx, UCx: Pending
   Assessment and Plan
   56 y/o M PMH diabetes, HTN, hyperlipidemia who presents with altered
   mental status and hypoxia
   .
   # Altered mental status: Slightly improving, based on efforts to
   communicate while on vent, and purposeful movements with all limbs.
   Broad differential. Hypercarbic, although overall condition appears to
   be slowly improving, despite PCO2 remaining in the 60s. pH is
   improving, with normal lactic acid. Given history, oxycodone/cannabis
   use may have made more somnolent. Also likely has significant
   obstructive sleep apnea component. CVA possible, but patient's habitus
   precludes him from fitting in CT scanner. Neurology consult service
   reports no focal neurologic deficits. Infectious etiology possible,
   given positive sputum gram stain
   - Continue to adjust ventilator to improve ventilation
   - F/u neuro recs
   - F/u cultures
   - Wean sedation for possible extubation (currently PSV 8/2
 SBT)
   - Per outside records, not extremely difficult extuabtion
   .
   # Respiratory distress: Has risk factors for PE (obesity, immobility)
   but unable to rule in/out as body habitus precludes CTA. LENI's
   negative for LE DVT. Ruled out for MI by cardiac enzymes x3. Positive
   sputum gram stain may represent pneumonia.  Some concern about
   increased secretions overnight also. Dissection ruled out by TEE.
   Tolerating CPAP overnight; likely requires significant PEEP, given
   habitus
   - F/u sputum culture
   - Wean vent settings as tolerated
   - Continue abx
 will check vanc trough
   .
   # Wide complex tachycardia: Single run of eight beats. Electrolytes
   generally normal. Per admission notes, patient takes beta blocker at
   home--has been held here to this point for ?hypotension.
   - C/w telemetry
   - Start metoprolol tartrate for more precise control (12.5 [**Hospital1 7**]); should
   not have as significant anti-hypertensive effect as patient's home
   lisinopril, HCTZ
   .
   # Asthma: C/w NEBs
   .
   # Diabetes: sliding scale
   .
   # Anemia: Normocytic. Slow trend down from 36.2 -> 30.9 since
   admission. No clear signs of bleed.
   - Guaiac stools if having bowel movements
   - Trend
   .
   # HTN: Restarting metoprolol, as above. Hold HCTZ, lisinopril
   .
   # Hyperlipidemia: Hold Lipitor in setting of transaminitis.
   .
   # GERD: Convert omeprazole to IV pantoprazole.
   .
   # FEN: No IVF, replete electrolytes, NPO for now with TF overnight
   # Prophylaxis: pneumoboots, SQ heparin
   # Access: R IJ - placed OSH; R radial; PIV 22g x1
 PICC line placed
   today
   # Communication: Wife [**Telephone/Fax (1) 13569**]
   # Code:  Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-2-26**] 02:30 AM
   22 Gauge - [**2182-2-26**] 02:33 AM
   Arterial Line - [**2182-2-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2182-02-27 08:47:00 Physician Attending Progress Note
ATTENDING
   Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2182-2-26**] 10:15 AM
 ULTRASOUND - At [**2182-2-26**] 11:15 AM
   Bil LENs
 ARTERIAL LINE - START [**2182-2-26**] 05:00 PM
   art line placed
   TEE negative for dissection
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2182-2-26**] 10:50 AM
   Ceftriaxone - [**2182-2-26**] 01:00 PM
   Vancomycin - [**2182-2-26**] 08:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2182-2-27**] 03:21 AM
   Heparin Sodium (Prophylaxis) - [**2182-2-27**] 06:07 AM
   Other medications:
   sqi, azithro, vanco, ceftriaxone, PPI, MDIs, bowel reg, SQH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-27**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 56 (52 - 74) bpm
   BP: 123/58(77) {100/43(59) - 163/74(101)} mmHg
   RR: 15 (11 - 20) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  1,316 mL
                                                                    510 mL
   PO:
             TF:
                                                                     34 mL
                                                                     71 mL
   IVF:
                                                                  1,282 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                    680 mL
   Urine:
                                                                  2,375 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,059 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (343 - 492) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.35/64/90.[**Numeric Identifier 126**]/33/6
   Ve: 8.6 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: distant
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, follows commands and can tell us his phone number by digits
   Labs / Radiology
   10.0 g/dL
   232 K/uL
   160 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   19 mg/dL
   103 mEq/L
   140 mEq/L
   30.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2182-2-26**]  03:19 AM
                             [**2182-2-26**]  05:56 AM
                             [**2182-2-26**]  09:03 AM
                             [**2182-2-26**]  03:11 PM
                             [**2182-2-26**]  09:16 PM
                             [**2182-2-26**]  09:20 PM
                             [**2182-2-26**]  10:58 PM
                             [**2182-2-27**]  02:22 AM
                             [**2182-2-27**]  02:30 AM
   WBC
   10.4
   8.9
   Hct
   33.1
   30.9
   Plt
   196
   232
   Cr
   0.9
   0.9
   0.8
   TropT
   <0.01
   0.01
   TCO2
   33
   34
   35
   35
   37
   Glucose
   181
   170
   160
   Other labs: PT / PTT / INR:12.6/22.2/1.1, CK / CKMB /
   Troponin-T:77//0.01, ALT / AST:99/59, Alk Phos / T Bili:73/0.2, Amylase
   / Lipase:/60, Lactic Acid:0.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.8 mg/dL
   Imaging: CXR hard to interpret -- ?some increased left base opacity
   Microbiology: GPCs on sputum gram stain
   Assessment and Plan
   56M transferred from OSH, intubated for altered mental status
   - AMS: Unclear etiology, ? hypercarbia/OSA, with cannabinoids on board,
   also takes oxycodone at home
 Neuro consult: appreciate recs, no focal deficits, unlikely to be an
   acute CVA, further recs pending
 Unable to obtain head CT given weight limit of CT table
 however pt
   remains nonfocal on exam so acute ICH or CVA seems unlikely
 Infectious workup: so far negative, no suggestion of meningitis,
   afebrile
 Contact PCP regarding use of CPAP at home
 Switch to propofol for ease of neuro examinations
 consider EEG, will await neuro recs
   - Widened mediastinum: [**Month (only) 51**] be due to habitus, no hx trauma, absence of
   pain makes dissection unlikely.
 TEE today
 low suspicion for dissection given absence of pain
   - Respiratory failure: Appears to be hypercarbic based on PcO2 70s at
   OSH.
 Oxygenating well on vent, currently on PS settings
 LENIS to eval for DVT although low suspicion for PE
 VQ may be difficult given abnormal CXR, cannot get CTA, hold on
   heparin until aorta evaluated by echo
 Echo to eval for R heart strain
 Hold on treating for COPD exacerbation for now with steroids, no
   wheezing, continue MDIs
 Received Vanc/CTX on arrival for empiric coverage
 will do 5 d
   course of CTX/Azithro/Vanco pending cx data
 Wean vent as tolerated, consider SBT later today
 eval for auto-peep, if high then start steroids
 aline
 sputum: GPCs on gram stain
 on Vanco
   - Asthma hx: No e/o acute flare now
 nebs standing
 hold on steroids for now
   - Mild transaminitis: Unclear etiology.
 Hold statin
   - HTN
 restart home meds
   - GERD
 continue home PPI
   - DM
 RISS, goal BS<150
   Pneumonia
   VT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-2-26**] 02:30 AM
   22 Gauge - [**2182-2-26**] 02:33 AM
   Arterial Line - [**2182-2-26**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill